US08445487B2
2-(2-Chloro-6-morpholino-9H-purin-8-yl)propan-2-ol (100 mg) was treated with iodopropane via General Procedure C to give crude intermediate 2-(2-chloro-6-morpholino-9-propyl-9H-purin-8-yl)propan-2-ol which was treated with 2-aminopyrimidine-5-boronic acid, pinacol ester via General Procedure A and was purified via reverse phase HPLC to give 34 mg of 104 as a white solid. MS (Q1) 399.3 (M)+.

reactant | 2-(2-Chloro-6-morpholino-9H-purin-8-yl)propan-2-ol | 100 mg | ClC1=NC(=C2N=C(NC2=N1)C(C)(C)O)N1CCOCC1 | C12H16ClN5O2
reactant | iodopropane | ICCC | C3H7I
product | 2-(2-chloro-6-morpholino-9-propyl-9H-purin-8-yl)propan-2-ol | ClC1=NC(=C2N=C(N(C2=N1)CCC)C(C)(C)O)N1CCOCC1 | C15H22ClN5O2
